US20010027196A1
2-Amino-4-(2-chloro-benzylamino)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile, 2-chlorobenzylamine and DBU in DME. EI-MS m/e (%): 327 (M{37Cl}+, 10), 325 (M{35Cl}+, 35), 290 ([M—Cl]+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | 2-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-chloro-benzylamino)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=C(C=CC=C1)Cl)C#N)N1N=CC=C1 | C15H12ClN7
